US06586467B2
3,4-Dihydroxybenzaldehyde (30.2 g, 219 mmol) is dissolved in DMF (300 mL) and added to a suspension of NaH (60% oil, 17.2 g, 430 mmol) in DMF (500 mL) at RT. The mixture is stirred for 30 minutes and benzyl chloride (17.3 mL, 150 mmol) is added at 0° C. The reaction is stirred overnight. The solvent is removed by evaporation and the residue is dissolved in water (500 mL). The mixture is extracted three times with CH2Cl2. The aqueous layer is acidified with HOAC (100 mL). The product is precipitated and filtered, washed with water to provide 3-benzyloxy-4-hydroxybenzaldehyde.

reactant | 3,4-Dihydroxybenzaldehyde | 219 mmol, 30.2 g | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | NaH | 430 mmol, 17.2 g | [H-].[Na+]
reactant | benzyl chloride | 150 mmol, 17.3 mL | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
product | 3-benzyloxy-4-hydroxybenzaldehyde | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1O | C14H12O3
